US06127382
(4-Bromo-3-methylphenyl)isopropylamine (Compound 15)
A solution of 4-bromo-3-methylaniline (5.05 g, 27 mmol) in acetic acid (6.0 mL), acetone (7.0 mL), ethanol (25.0 mL) and water (16.0 mL) was cooled to 0° C. and treated with sodium acetate (7.16 g, mmol). The reaction was stirred 5 minutes and then treated slowly and in several small portions with sodium borohydride (5.15 g, 136 mmol) and the resulting reaction mixture was stirred at 0° C. for 3 hours. The solution was neutralized with NaOH pellets and extracted with ether (2×). The combined organic extracts were washed with brine and dried (Na2SO4). The filtered solution was concentrated under reduced pressure to give the title compound (5.68 g, 92%) as an oil.

reactant | 4-bromo-3-methylaniline | 27 mmol, 5.05 g | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | sodium acetate | 7.16 g | C(C)(=O)[O-].[Na+]
reactant | sodium borohydride | 136 mmol, 5.15 g | [BH4-].[Na+]
reactant | NaOH | [OH-].[Na+]
reactant | acetic acid | 6.0 mL | C(C)(=O)O | C2H4O2
solvent | acetone | 7.0 mL | CC(=O)C | C3H6O
solvent | ethanol | 25.0 mL | C(C)O | C2H6O
solvent | water | 16.0 mL | O | H2O
product | (4-Bromo-3-methylphenyl)isopropylamine | 5.68 g, 92% | BrC1=C(C=C(C=C1)NC(C)C)C | C10H14BrN
